US04182757
A mixture of 3.3 g of 3-chloro-1,2-dihydroxy-n-propane and 20 ml of 30% methylamine-methanol solution is allowed to stand at room temperature for 3 days. The reaction mixture is condensed to dryness under reduced pressure, whereby 4.2 g of N-methyl-2,3-dihydroxy-n-propylamine hydrochloride are obtained as a crude product. 4.2 g of said crude product and 3 g of triethylamine are dissolved in 30 ml of methanol. To the solution, 3.2 g of 2-chloroethyl isocyanate are added dropwise to the solution at 0° to 5° C. The solution is stirred at room temperature for 2 hours. Then, the reaction solution is condensed under reduced pressure and the residue thus obtained is purified by silica gel chromatography (Solvent: chloroform-ethyl acetate-methanol(3:1:1)). 3.5 g of 1-(2-chloroethyl)-3-methyl-3-(2,3-dihydroxy-n-propyl)urea are obtained as a colorless oil.

reactant | 3-chloro-1,2-dihydroxy-n-propane | 3.3 g | ClCC(CO)O | C3H7ClO2
reactant | methylamine methanol | 20 ml | CN.CO
reactant | N-methyl-2,3-dihydroxy-n-propylamine hydrochloride | 4.2 g | Cl.CNCC(CO)O
reactant | 2-chloroethyl isocyanate | 3.2 g | ClCCN=C=O | C3H4ClNO
solvent | methanol | 30 ml | CO | CH4O
solvent | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
product | 1-(2-chloroethyl)-3-methyl-3-(2,3-dihydroxy-n-propyl)urea | 3.5 g | ClCCNC(=O)N(CC(CO)O)C | C7H15ClN2O3
